US06248885B1
tert-Butylisobutylethylamine
A mixture of tert-butylisobutylamine (25.84 g, 0.2 mol) and diethyl sulfate (46.26 g, 0.3 mol) was warmed to 70° C. with stirring. An exothermic reaction started and in a few minutes the temperature rose to 150° C. with vigorous boiling of the mixture. After cooling to ˜50° C., 5 M aqueous potassium hydroxide (100 ml, 0.5 mol) was added. The organic layer was separated and dried over anhydrous magnesium sulfate. Diethyl sulfate (10 ml) was added and the mixture was stirred at 100° C. for 1 h. Aqueous 5 M potassium hydroxide (100 ml) was added and the mixture was stirred at 80° C. for 1 h. The organic layer was separated and the aqueous layer was extracted with diethyl ether (50 ml). The organic solutions were combined, dried over anhydrous magnesium sulfate and the product was isolated by distillation. A small amount (1-2%) of tert-butylisobutylamine which was removed by the addition of 2.5 M n-butyllithium in hexane (5.0 ml, 10 mmol) and the product distilled to yield 22.56 g, (72%) of product, bp 68-70° C./40 mm Hg; 1H NMR (CDCl3) δ0.85 (d, J=6.5 Hz, 6H, CH3), 0.98 (t, J=6.5 Hz, 3H, CH3), 1.01 (s, 9H, CH3), 1.66 (n, J=6.5 Hz, 1H, CH), 2.04 (d, J=6.57 Hz, 2H, CH2), 2.51 (q, J=6.5 Hz, 2H, CH2).

reactant | tert-butylisobutylamine | 0.2 mol, 25.84 g | C(C)(C)(C)NCC(C)C | C8H19N
reactant | diethyl sulfate | 0.3 mol, 46.26 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | potassium hydroxide | 0.5 mol, 5 M, 100 ml | [OH-].[K+]
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | hexane | 10 mmol, 5.0 ml | CCCCCC | C6H14
product | tert-Butylisobutylethylamine | 72% | C(C)(C)(C)N(CC)CC(C)C | C10H23N
